US05008285
4-[4-(2-carboxybenzyloxy)phenyl]pentanoic acid
A mixture of 14 g of ethyl 4-[4-(2-ethoxycarbonylbenzyloxy)-phenyl]pentanoate, 31 g of potassium hydroxide in 40 ml of water and 250 ml of 95% of ethanol was heated under reflux overnight. The solution was concentrated and the residue was dissolved in water, cooled and acidified with cold conc hydrochloric acid. The mixture was extracted with ether, and the extract was dried over anhydrous sodium sulfate, filtered and evaporated. Trituration with hexane afforded 8.9 g (72%) of product, mp 104°-106°. Recrystallization from acetonitrile gave an analytical sample, mp 115°-117.5°.

reactant | ethyl 4-[4-(2-ethoxycarbonylbenzyloxy)-phenyl]pentanoate | 14 g | C(C)OC(=O)C1=C(COC2=CC=C(C=C2)C(CCC(=O)OCC)C)C=CC=C1 | C23H28O5
reactant | potassium hydroxide | 31 g | [OH-].[K+]
solvent | water | 40 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-[4-(2-carboxybenzyloxy)phenyl]pentanoic acid | 8.9 g, 72% | C(=O)(O)C1=C(COC2=CC=C(C=C2)C(CCC(=O)O)C)C=CC=C1 | C19H20O5
